US07846956B2
1.4 g of 2-(2-propynyloxy)-1,3-thiazole-5-carbaldehyde was dissolved in a mixture of 6 ml of water and 14 ml of ethanol, and 0.56 g of malononitrile was added dropwise. The mixture was stirred at room temperature for 3 hours. Thereafter, the reaction mixture was filtered, and the resulting cake was washed with 5 ml of ethanol two times and dried under reduced pressure to obtain 1.55 g of {[2-(2-propynyloxy)-1,3-thiazol-5-yl]methylidene}malononitrile.

reactant | 2-(2-propynyloxy)-1,3-thiazole-5-carbaldehyde | 1.4 g | C(C#C)OC=1SC(=CN1)C=O | C7H5NO2S
reactant | malononitrile | 0.56 g | C(CC#N)#N | C3H2N2
solvent | water | 6 ml | O | H2O
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | {[2-(2-propynyloxy)-1,3-thiazol-5-yl]methylidene}malononitrile | 1.55 g | C(C#C)OC=1SC(=CN1)C=C(C#N)C#N | C10H5N3OS
